US07465726B2
4-(3-Nitrophenyl)-thiazol-2-ylamine
A solution of 3-nitrophenacyl bromide (244 mg, 1.00 mmol) and thiourea (76.1 mg, 1.00 mmol) in DMF (2 mL) was stirred at 60° C. for 16 h. The mixture was concentrated in vacuo to obtain a yellow solid that was then washed with H2O and dried to yield a yellow solid (206 mg). The solid was dissolved in DMSO and purified by SCX column (4×6 mL capacity), eluted with CH2Cl2 (4×6 mL), MeOH (4×12 mL) and then released by NH3 (7 N in MeOH, 4×6 mL) to give a light-yellow solid of 4-(3-aminophenyl)-thiazol-2-ylamine. 1H NMR (DMSO-d6, 400 MHz): δ=7.24 (brs, 2H), 7.35 (s, 1H), 7.65-7.69 (m, 1H), 8.10-8.13 (m, 1H), 8.23-8.26 (m, 1H), 8.62 (t, 1H, J=1.8 Hz). MS (ES+): m/z 223.12 (45) [M}+]. HPLC: tR=2.82 min (ZQ2000, polar—5 min). The combined CH2Cl2 and MeOH solution was concentrated in vacuo to give a yellow solid of 4-(3-aminophenyl)-1H-imidazole-2-thiol. 1H NMR (DMSO-d6, 400 MHz): δ=7.75 (t, 1H, J=8.0 Hz), 8.01 (d, 1H, J=0.8 Hz), 8.17-8.20 (m, 1H), 8.35-8.37 (m, 1H), 8.56 (d, 1H, J=1.6 Hz), 8.72 (t, 1H, J=1.8 Hz), 12.56 (s, 1H). MS (ES+): m/z 222.12 (15) [MH+]. HPLC: tR=2.97 min (ZQ2000, polar 5 min).

reactant | 3-nitrophenacyl bromide | 1.00 mmol, 244 mg | [N+](=O)([O-])C=1C=C(C(CBr)=O)C=CC1 | C8H6BrNO3
reactant | thiourea | 1.00 mmol, 76.1 mg | NC(=S)N | CH4N2S
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-(3-Nitrophenyl)-thiazol-2-ylamine | 206 mg | [N+](=O)([O-])C=1C=C(C=CC1)C=1N=C(SC1)N | C9H7N3O2S
